US05952386
Then, 8.4 g of crude 4-benzyloxy-3-ethyl-5-methylphenyl benzoate was dissolved in 100 ml of ethyl acetate, which was put into a reaction vessel, and the air in the vessel was replaced with nitrogen gas. Then, 0.5 g of 10% palladium on carbon was added, and the nitrogen gas in the vessel was replaced with hydrogen gas, followed by vigorous stirring at room temperature for 24 hours. The hydrogen gas in the vessel was replaced with nitrogen gas, after which the reaction mixture was filtered through cerite and the filtrate was concentrated under reduced pressure, which afforded 5.9 g of crude 3-ethyl-4-hydroxy-5-methylphenyl benzoate (95% yield).

reactant | 4-benzyloxy-3-ethyl-5-methylphenyl benzoate | 8.4 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)CC | C23H22O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 3-ethyl-4-hydroxy-5-methylphenyl benzoate | 5.9 g, 95% yield | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=C1)C)O)CC | C16H16O3
